US05137920
3 g of (E)-3-(4-chlorophenyl)-4'-[3-(dimethylamino)propyl]acrylophenone were dissolved in 100 ml of ethanol and, after the addition of 300 mg of 5 percent palladium on carbon, hydrogenated. After the uptake of the theoretical amount of hydrogen the catalyst was filtered off and the filtrate was evaporated. The residue was dissolved in ethanol and converted using 10M ethanolic hydrochloric acid solution into the hydrochloride which was precipitated by the addition of hexane. After recrystallization from ethyl acetate/ethanol 5:1 there were obtained 1.44 g (43%) of 3-(4-chlorophenyl)-4'-[3-(dimethylamino)propyl]propiophenone hydrochloride; m.p. 161°-164°.

reactant | (E)-3-(4-chlorophenyl)-4'-[3-(dimethylamino)propyl]acrylophenone | 3 g | ClC1=CC=C(C=C1)/C=C/C(=O)C1=CC=C(C=C1)CCCN(C)C | C20H22ClNO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 3-(4-chlorophenyl)-4'-[3-(dimethylamino)propyl]propiophenone hydrochloride | 1.44 g, 43% | Cl.ClC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)CCCN(C)C | InChI=1S/C20H24ClNO.ClH/c1-22(2)15-3-4-16-5-10-18(11-6-16)20(23)14-9-17-7-12-19(21)13-8-17;/h5-8,10-13H,3-4,9,14-15H2,1-2H3;1H
